US04289777
(D) 1,3-BIS(3-NITROPHENOXY)-2-PROPANOL
44.3 g. (0.32 mole) of 3-nitrophenol is dissolved in 1.2 liter of isopropanol; 13.7 ml. of epichlorohydrin is added thereto and then a solution of 17.5 g. of potassium hydroxide in 250 ml. of isopropanol as well as 10 ml. of water are introduced. The mixture is refluxed for 48 hours, concentrated to half its volume, and combined with 250 ml. of water. The thus-precipitated product is filtered off, washed with water, and dried.

reactant | 3-nitrophenol | 0.32 mole | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
solvent | isopropanol | 1.2 liter | C(C)(C)O | C3H8O
product | 1,3-BIS(3-NITROPHENOXY)-2-PROPANOL | [N+](=O)([O-])C=1C=C(OCC(COC2=CC(=CC=C2)[N+](=O)[O-])O)C=CC1 | C15H14N2O7
